US05925662
10.3. 5-Ethoxycarbonylamino-2-(3,3,3-trifluoropropyl)-benzofuran
A solution of 2.0 g (8.7 mmol) of 5-amino-2-(3,3,3-trifluoropropyl)benzofuran in 30 ml of a 9/1 mixture of tetrahydrofuran and water is reacted for 30 minutes with 0.92 ml (9.6 mmol) of ethyl chloroformate in the presence of 1.1 g (13 mmol) of sodium hydrogen-carbonate. The reaction medium is then diluted with water and dichloromethane, then the organic phase is separated, dried over sodium sulfate and concentrated under reduced pressure. 2.5 g of product are obtained.

reactant | 5-amino-2-(3,3,3-trifluoropropyl)benzofuran | 8.7 mmol, 2.0 g | NC=1C=CC2=C(C=C(O2)CCC(F)(F)F)C1 | C11H10F3NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl chloroformate | 9.6 mmol, 0.92 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogen-carbonate | 13 mmol, 1.1 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Ethoxycarbonylamino-2-(3,3,3-trifluoropropyl)-benzofuran | 2.5 g | C(C)OC(=O)NC=1C=CC2=C(C=C(O2)CCC(F)(F)F)C1 | C14H14F3NO3
